US07465726B2
(2-Methoxyethyl)-(6-nitrobenzothiazol-2-yl)-amine
The title compound was prepared following the procedure for N,N-dimethyl-N′-(6-nitrobenzothiazol-2-yl)-ethane-1,2-diamine, using 6.78 eq of 2-methoxyethylamine. 1H NMR (400 MHz, CDCl3): δ=3.42 (s, 3H), 3.65 (td, J=4.4, 0.8 Hz, 2H), 3.70 (t, br, J=4.4 Hz, 2H), 5.92 (s, br, —NH), 7.53 (d, J=8.8 Hz, 1H), 8.21 (dd, J=9.2, 2.4 Hz, 1H), 8.51 (d, J=2.4 Hz, 1H). MS (ES+): m/z 254.10 (100) [MH+]. HPLC: tR=2.89 min (ZQ2000, polar—5 min).

reactant | N,N-dimethyl-N′-(6-nitrobenzothiazol-2-yl)-ethane-1,2-diamine | CN(CCNC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-])C | C11H14N4O2S
reactant | 2-methoxyethylamine | 6.78 eq | COCCN | C3H9NO
product | (2-Methoxyethyl)-(6-nitrobenzothiazol-2-yl)-amine | COCCNC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C10H11N3O3S
